US07326788B2
a. 1-Benzyl-6-chloro-3-(3-methyl-isoxazol-5-yl)-4-piperidin-1-yl-1H-quinolin-2-one
To a solution of trifluoro-methanesulfonic acid 1-benzyl-6-chloro-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinolin-4-yl ester (25 mg, 0.050 mmol) in 1 ml of THF was added piperidine (17 mg, 0.20 mmol). The mixture was stirred at rt for 16 h. Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (20% EtOAc/hexanes) gave 21.0 mg (97%) of product as a yellow green oil: 1H-NMR (CDCl3; 400 MHz) δ 7.93 (d, 1H, J=2.6 Hz), 7.37 (dd, 1H, J=9.0, 2.3 Hz), 7.18-7.33 (m, 6H), 6.56 (s, 1H), 5.50 (s, 2H), 2.99 (m, 4H), 2.40 (s, 3H), 1.64-1.76 (m, 6H). Mass spectrum (ESI, m/z): Calcd. for C25H24ClN3O2, 434.2 (M+H), found 434.1.

reactant | trifluoro-methanesulfonic acid 1-benzyl-6-chloro-3-(3-methyl-isoxazol-5-yl)-2-oxo-1,2-dihydro-quinolin-4-yl ester | 0.050 mmol, 25 mg | C(C1=CC=CC=C1)N1C(C(=C(C2=CC(=CC=C12)Cl)OS(=O)(=O)C(F)(F)F)C1=CC(=NO1)C)=O | C21H14ClF3N2O5S
reactant | piperidine | 0.20 mmol, 17 mg | N1CCCCC1 | C5H11N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-6-chloro-3-(3-methyl-isoxazol-5-yl)-4-piperidin-1-yl-1H-quinolin-2-one | 21.0 mg, 97% | C(C1=CC=CC=C1)N1C(C(=C(C2=CC(=CC=C12)Cl)N1CCCCC1)C1=CC(=NO1)C)=O | C25H24ClN3O2
